US07994315B2
1.6 M aqueous sodium hydroxide solution (50 ml) was added to a solution of 2-chloro-(1S)-1-(4-fluorophenyl)ethanol (10.4 g) in diethyl ether (40 ml), and the mixture was stirred at room temperature for 5 hrs. The organic layer was separated and the aqueous layer was extracted with diethyl ether. The combined organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give (2S)-2-(4-fluorophenyl)oxirane (8.28 g) as a colorless oil.

reactant | sodium hydroxide | 1.6 M, 50 ml | [OH-].[Na+]
reactant | 2-chloro-(1S)-1-(4-fluorophenyl)ethanol | 10.4 g | ClC[C@@H](O)C1=CC=C(C=C1)F | C8H8ClFO
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | (2S)-2-(4-fluorophenyl)oxirane | 8.28 g | FC1=CC=C(C=C1)[C@@H]1OC1 | C8H7FO
